US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (20 g), a 2M ethanolic solution of sodium ethylate (42 cc) and ethyl (phenethylthio)acetate (15.7 g) in ethanol (200 cc). Diethyl 2-dimethylamino-5-phenethylthio-2,4-hexadienedioate (22.8 g) is thereby obtained in the form of an orange-coloured oil, and is used in the crude state in the subsequent syntheses.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 20 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 42 cc | CC[O-].[Na+]
reactant | ethyl (phenethylthio)acetate | 15.7 g | C(CC1=CC=CC=C1)SCC(=O)OCC | C12H16O2S
solvent | ethanol | 200 cc | C(C)O | C2H6O
product | Diethyl 2-dimethylamino-5-phenethylthio-2,4-hexadienedioate | 22.8 g | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)CCC1=CC=CC=C1)C | C20H27NO3S
